US07354933B2
0.028 g of sodium hydride is added to a solution of 0.1 g of 5,5-dimethyl-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione in 2 ml of anhydrous dimethylformamide, under an inert atmosphere of argon at a temperature in the region of 20° C. Stirring is continued at this temperature for 30 minutes. A solution of 0.1 g of 2-chloro-4-(bromomethyl)pyridine in 2 ml of dimethylformamide is added, followed by addition of ice-cold water after reaction for 10 minutes. The reaction medium is placed on a cartridge 20 mm in diameter packed with 17 g of octadecyl-grafted 50 μm silica conditioned successively with acetonitrile and then with water. The elution is performed by gradient using the mixture (water/acetonitrile) of from 0 to 100% acetonitrile. The fractions containing the expected product are concentrated under reduced pressure. 0.130 g of crude product is thus obtained, which product is purified by a double chromatography using a cartridge packed with 10 g of 20-40 μm of conditioned silica, and then eluted with a mixture (cyclohexane/ethyl acetate), (8/2) (v/v) at a flow rate of 5 ml/minute. The fractions between 30 and 75 ml are concentrated under reduced pressure. 0.1 g of 5,5-dimethyl-1-(2-chloropyrid-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione is thus obtained in the form of a white powder, the characteristics of which product are as follows:

reactant | sodium hydride | 0.028 g | [H-].[Na+]
reactant | 5,5-dimethyl-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | 0.1 g | CC1(C(N(C(N1)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C12H11F3N2O3
reactant | 2-chloro-4-(bromomethyl)pyridine | 0.1 g | ClC1=NC=CC(=C1)CBr | C6H5BrClN
reactant | acetonitrile | C(C)#N | C2H3N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5,5-dimethyl-1-(2-chloropyrid-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | 0.1 g | CC1(C(N(C(N1CC1=CC(=NC=C1)Cl)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C18H15ClF3N3O3
